US07425642B2
(1-But-3-en-1-yl-4-phenyl-1H-imidazol-2-yl) (3-methoxyphenyl)methanone
(3-Methoxyphenyl)(4-phenyl-1H-imidazol-2-yl)methanone (278 mg, 1.00 mmol) was dissolved in DMF (3 ml), and thereto were added potassium carbonate (207 mg, 1.50 mmol), 18-crown-6 (26.4 mg, 0.100 mmol), 3-butenyl bromide (162 mg, 1.20 mmol), and the mixture was stirred at 80° C. for 5 hours. The reaction solution was cooled to room temperature, and thereto was added water. The mixture was extracted with ethyl acetate, and the solvent was evaporated under reduced pressure. The resulting residue was subjected to azeotropic distillation with toluene to give the title compound (309 mg, 93%).

reactant | (3-Methoxyphenyl)(4-phenyl-1H-imidazol-2-yl)methanone | 1.00 mmol, 278 mg | COC=1C=C(C=CC1)C(=O)C=1NC=C(N1)C1=CC=CC=C1 | C17H14N2O2
reactant | potassium carbonate | 1.50 mmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.100 mmol, 26.4 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 3-butenyl bromide | 1.20 mmol, 162 mg | C(CC=C)Br | C4H7Br
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (1-But-3-en-1-yl-4-phenyl-1H-imidazol-2-yl) (3-methoxyphenyl)methanone | 309 mg, 93% | C(CC=C)N1C(=NC(=C1)C1=CC=CC=C1)C(=O)C1=CC(=CC=C1)OC | C21H20N2O2
